US07786110B2
To a 0° C. solution of 5-(3-dimethylamino-thioacryloyl)-4′-methyl-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide (200 mg, 0.505 mmol) in a mixture of pyridine (80 uL), ethanol (3 mL) and MeOH (1 mL) was added hydroxyl-amine-O-sulfonic acid (0.76 mmol, 85.7 mg) in one portion. The reaction mixture was stirred for two hours, during which time the mixture was allowed to warm to room temperature. Solvent was removed in vacuo, and the residue was subjected to Preparative HPLC for separation to give 92 mg (50%) of 5-isothiazol-5-yl-4′-methyl-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide, MS (M+H)=367.

reactant | 5-(3-dimethylamino-thioacryloyl)-4′-methyl-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide | 0.505 mmol, 200 mg | COCC(C)NC(=O)C=1C=C(C=C(C1)C(C=CN(C)C)=S)C1=CC=C(C=C1)C | C23H28N2O2S
reactant | ethanol | 3 mL | C(C)O | C2H6O
reactant | MeOH | 1 mL | CO | CH4O
reactant | hydroxyl-amine-O-sulfonic acid | 0.76 mmol, 85.7 mg | OOS(=O)(=O)N | H3NO4S
solvent | pyridine | 80 uL | N1=CC=CC=C1 | C5H5N
product | 5-isothiazol-5-yl-4′-methyl-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide | 92 mg, 50% | COCC(C)NC(=O)C=1C=C(C=C(C1)C1=CC=NS1)C1=CC=C(C=C1)C | C21H22N2O2S
